US07091380B2
(±)-Trans-1-amino-3-oxabicyclo[3.1.0]hexan-2-one (128 mg, 1.13 mmol) was mixed with 3,3,3-trifluoropropionic acid in 2.3 mL of N,N-dimethylformamide. Hydroxybenzotriazole (17.4 mg, 0.11 mmol) was added followed by 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide (282 mg, 1.47 mmol). The pH of the reaction mixture was adjusted to 8.5 with triethylamine and the mixture was allowed to stir at ambient temperature for 2 hours. Water was then added and the reaction mixture was extracted with ethyl acetate. The combined organic extracts were washed with water and brine, then dried (sodium sulfate) and concentrated to give the crude product. This was purified by silica gel chromatography to afford 120 mg (45%) of 3,3,3-trifluoro-N-[(±)-trans-2-oxo-3-oxabicyclo[3.1.0]hex-1-yl]-propanamide.

reactant | (±)-Trans-1-amino-3-oxabicyclo[3.1.0]hexan-2-one | 1.13 mmol, 128 mg | N[C@@]12C(OC[C@@H]2C1)=O | C5H7NO2
reactant | 3,3,3-trifluoropropionic acid | FC(CC(=O)O)(F)F | C3H3F3O2
reactant | Hydroxybenzotriazole | 0.11 mmol, 17.4 mg | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide | 1.47 mmol, 282 mg | C(C)N=C=NCCCN(C)C | C8H17N3
solvent | N,N-dimethylformamide | 2.3 mL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 3,3,3-trifluoro-N-[(±)-trans-2-oxo-3-oxabicyclo[3.1.0]hex-1-yl]-propanamide | 120 mg, 45% | FC(CC(=O)N[C@@]12C(OC[C@@H]2C1)=O)(F)F | C8H8F3NO3
